US08895583B2
Step A. [4-(4-bromophenyl)piperazin-1-yl](2,2-difluorocyclopropyl)methanone, enantiomer A and enantiomer B
To a solution of 1-(4-bromophenyl)piperazine (2.53 g, 10.5 mmol) in DMF (10 mL) was added 2,2-difluorocyclopropanecarboxylic acid (1.92 g, 15.7 mmol) 1H-benzotriazol-1-ol (2.84 g, 21.0 mmol), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide (3.26 g, 21.0 mmol) and DIEA (7.31 mL, 42.0 mmol). The resulting mixture was stirred at 50° C. for 1 h. The reaction mixture was then quenched with saturated ammonium chloride solution, extracted with ethyl acetate, and concentrated in vacuo. Purification by chromatography on silica gel (0 to 75% EtOAc in hexanes, then 75 to 100% EtOAc in hexanes) provided the racemic compound. The racemate was then dissolved in 10% ethanol in heptane and the enantiomers were separated on an OD chiral column by eluting column with 30% ethanol in heptane. The first eluting peak was defined as enantiomer A and the second eluting peak was defined as enantiomer B. LCMS m/z 346.8 [M+H]+; 1H NMR (500 MHz, CD2Cl2) δ 7.37 (d, J=9.0 Hz, 2 H),6.80 (d, J=9.0 Hz, 2 H), 4.00-3.93 (m, 1 H),3.84-3.61 (m, 3 H),3.31-3.02 (m, 4 H),2.60-2.50 (m, 1 H),2.23-2.11 (m, 1 H),1.75-1.64 (m, 1 H).

reactant | 1-(4-bromophenyl)piperazine | 10.5 mmol, 2.53 g | BrC1=CC=C(C=C1)N1CCNCC1 | C10H13BrN2
reactant | 2,2-difluorocyclopropanecarboxylic acid | 15.7 mmol, 1.92 g | FC1(C(C1)C(=O)O)F | C4H4F2O2
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide | 21.0 mmol, 3.26 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | DIEA | 42.0 mmol, 7.31 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethanol | C(C)O | C2H6O
solvent | heptane | CCCCCCC | C7H16
product | [4-(4-bromophenyl)piperazin-1-yl](2,2-difluorocyclopropyl)methanone | BrC1=CC=C(C=C1)N1CCN(CC1)C(=O)C1C(C1)(F)F | C14H15BrF2N2O
